US05922727
1-[(4-Hydroxymethylcyclopent-1-en-1-yl)methyl]-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione and (4-t-butyl-dimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide were reacted by the same way with the example 6 to obtain the titled compound (48 mg).

reactant | 5-Ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | (4-t-butyl-dimethylsilyloxymethylcyclopent-1-en-1-yl)methyl bromide | [Si](C)(C)(C(C)(C)C)OCC1CC=C(C1)CBr | C13H25BrOSi
product | 1-[(4-Hydroxymethylcyclopent-1-en-1-yl)methyl]-5-ethyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | 48 mg, Yield(%): 21.4 | OCC1CC=C(C1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C21H26N2O3S
